US07462611B2
a) Tributyl-(1,1-dioxo-4,5-dihydro-1H-1λ6-thiophen-2-yl)-stannane
n-Butyllithium (6.72 mL of a 1.6 M solution in hexanes, 10.7 mmol) was added over 5 min to a solution of 2,3-dihydro-thiophene 1,1-dioxide (1.21 g, 10.2 mmol, prepared as described in J. Organomet. Chem., 665, 167 (2003)) in tetrahydrofuran (60 mL) at −78° C. The reaction mixture was stirred at −78° C. for 30 min, then tributyltin chloride (3.04 mL, 11.2 mmol) was added over 5 min. After stirring at −78° C. for 45 min, the mixture was warmed to 25° C. and stirred for an additional 45 min then was concentrated in vacuo. The residue was diluted with chloroform (50 mL) and filtered. The filtrate was partitioned between water (100 mL) and a 1:1 mixture of ethyl acetate and hexanes (1×200 mL). The organic layer was dried over sodium sulfate, filtered and was concentrated in vacuo. Purification of the residue by flash column chromatography (Merck silica gel 60, 40-63 μm, 20-30% ethyl acetate in hexanes) afforded the desired product, tributyl-(1,1-dioxo-4,5-dihydro-1H-1λ6-thiophen-2-yl)-stannane (1.13 g, 2.77 mmol, 27% yield) as a yellow solid. 1H NMR (400 MHz, CDCl3) δ: 0.90-0.95 (9H, m), 1.15-1.21 (6H, m), 1.29-1.40 (8H, m), 1.50-1.67 (6H, m), 2.96-3.00 (1H, m), 3.11-3.14 (1H, m), 6.57 (1H, t, J=3.1 Hz).

reactant | n-Butyllithium | C(CCC)[Li]
reactant | 2,3-dihydro-thiophene 1,1-dioxide | 10.2 mmol, 1.21 g | S1(CCC=C1)(=O)=O | C4H6O2S
reactant | tributyltin chloride | 11.2 mmol, 3.04 mL | C(CCC)[Sn](CCCC)(CCCC)Cl
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
product | tributyl-(1,1-dioxo-4,5-dihydro-1H-1λ6-thiophen-2-yl)-stannane | 2.77 mmol, 1.13 g, 27% yield | C(CCC)[Sn](C=1S(CCC1)(=O)=O)(CCCC)CCCC | InChI=1S/C4H5O2S.3C4H9.Sn/c5-7(6)3-1-2-4-7;3*1-3-4-2;/h1H,2,4H2;3*1,3-4H2,2H3;
